US05557017
Into a 500 cc four-necked equipped with a stirrer, a reflux condenser, a dropping funnel and a thermometer, 200 cc of methanol and 32.4 g (0.6 mol) of sodium methoxide were charged. The reactor was heated to bring the internal temperature to 60° C. Then, 273 g of (0.5 mol) of C8F17I was dropwise added thereto over a period of one hour. After completion of the dropwise addition, heating and refluxing were continued for 10 hours. The conversion at that time was 99.8%. The reactor was cooled to room temperature. Then, 300 g of water was added to dissolve precipitated potassium iodide. The crude reaction solution was separated into two layers, and the fluorocarbon layer (lower layer) was further washed with 300 g of water to obtain 201 g of C8F17H having a purity of 99.4%. In the reactor, no formation of tar was observed.

reactant | methanol | 200 cc | CO | CH4O
reactant | sodium methoxide | 0.6 mol, 32.4 g | C[O-].[Na+]
reactant | C8F17I | 0.5 mol, 273 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)I | C8F17I
solvent | water | 300 g | O | H2O
product | C8F17H | 201 g | C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F | C8HF17
